US07816395B2
h) 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate
The crude 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{methyl[(2-nitrophenyl)sulfonyl]amino}butanoate from the previous step (31.8 g), phenyl hydrosulfide (1.5 equiv., 10.32 g, 94 mmol), and K2CO3 (325 mesh, 3 equiv., 25.9 g, 188 mmol) in DMF (100 mL) were stirred at room temperature for 30 min. The reaction mixture was diluted with H2O (300 mL) and extracted with Et2O (4×). The organic extracts were washed with H2O, and 10% aq. Na2CO3, dried, and concentrated to give the titled product which contaminated with the 2-nitrophenyl phenyl sulfide by product (31.7 g). This contaminated product was used directly in the next step.

reactant | 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{methyl[(2-nitrophenyl)sulfonyl]amino}butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C22H25ClN4O6S
reactant | phenyl hydrosulfide | 94 mmol, 10.32 g, 1.5 equiv. | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 188 mmol, 25.9 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 300 mL | O | H2O
product | 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNC | C16H22ClN3O2
